US06239151B1
A solution of 1.04 g of (E)-2(R)-[1(RS)-[(tert.butyloxy)carbonyl]-4-(2-thienyl)-3-butenyl]-2′-isobutyl-2′-[N-(9-fluorenylmethyloxycarbonyl)-D-alanyl]-4-methylvalerohydrazide in 50 ml of dichloromethane was treated with 1.0 ml of a 33% solution of hydrogen bromide in acetic acid at −15° C. The mixture was stirred at this temperature for 1.5 hours and then washed with water and dried over anhydrous magnesium sulfate. Evaporation was followed by addition of hexane and filtration of the resulting precipitate. The precipitate was dried to give 0.665 g of (E)-2(R)-[1(RS)-(carboxy)]-4-(2-thienyl)-3-butenyl]-2′-isobutyl-2′-[N-(9-fluorenylmethyloxycarbonyl)-D-alanyl]-4-methylvalerohydrazide in the form of a light brown solid.

reactant | (E)-2(R)-[1(RS)-[(tert.butyloxy)carbonyl]-4-(2-thienyl)-3-butenyl]-2′-isobutyl-2′-[N-(9-fluorenylmethyloxycarbonyl)-D-alanyl]-4-methylvalerohydrazide | 1.04 g | C(C)(C)(C)OC(=O)C(C\C=C\C=1SC=CC1)[C@H](C(=O)NN(C([C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C)=O)CC(C)C)CC(C)C | C41H53N3O6S
reactant | hydrogen bromide | Br | BrH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2′-isobutyl-2′-[N-(9-fluorenylmethyloxycarbonyl)-D-alanyl]-4-methylvalerohydrazide | C(C(C)C)N(NC(CCC(C)C)=O)C([C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C)=O | C28H37N3O4
